US05438052
3-Fluorocatechol (7.2 g) in 50 ml of carbon tetrachloride and 40 ml of chloroform are treated at -10° C. within 10 minutes with a solution of 2.88 ml of bromine in 30 ml of carbon tetrachloride. After stirring at -10° C. for 1 hour the reaction mixture is filtered. The residual solid is washed with a small amount of cold carbon tetrachloride and dried. There are obtained 6.30 g of 4-bromo-3-fluorocatechol as a white powder. This is treated with 6.0 ml of diphenylchloromethane and heated to 130° C. within 1 hour. Subsequently, the product is distilled at 135° C./0.05 Torr and recrystallized from ethanol. There are obtained 6.40 g of 5-bromo-4-fluoro-2,2-diphenyl-1,3-benzodioxol as a white crystalline powder of m.p. 61.5°-63° C.

reactant | 3-Fluorocatechol | 7.2 g | FC1=C(C(O)=CC=C1)O | C6H5FO2
reactant | bromine | 2.88 ml | BrBr | Br2
solvent | carbon tetrachloride | 50 ml | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | chloroform | 40 ml | C(Cl)(Cl)Cl | CHCl3
solvent | carbon tetrachloride | 30 ml | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-bromo-3-fluorocatechol | 6.30 g | BrC=1C(=C(C(O)=CC1)O)F | C6H4BrFO2
